US05300521
a) 1-Methyl-4-phenylethinylpyrazole
To a solution of 1-methyl-4-iodopyrazole (208 g, 1 mol) and phenylacetylene (112 g, 1.1 mol) in diisopropylamine (2 l) are added, under nitrogen, copperiodide (2 g), triphenylphosphine (0.1 g) and bis-(triphenylphosphine) palladiumdichloride (0.5 g). The mixture is kept during 3 hours at ca. +35° C. and then heated for 1 hour at +90° C. The cooled reaction mixture is diluted with ethyl acetate and filtrated. Concentration of the filtrate and distillation yields the title compound: b.p. 116°-118° C./0.3 mbar, m.p. 70°-72° C.

reactant | 1-methyl-4-iodopyrazole | 1 mol, 208 g | CN1N=CC(=C1)I | C4H5IN2
reactant | phenylacetylene | 1.1 mol, 112 g | C1(=CC=CC=C1)C#C | C8H6
reactant | triphenylphosphine | 0.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | diisopropylamine | 2 l | C(C)(C)NC(C)C | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copperiodide | 2 g | [Cu](I)I
catalyst | bis-(triphenylphosphine) palladiumdichloride | 0.5 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-Methyl-4-phenylethinylpyrazole | CN1N=CC(=C1)C#CC1=CC=CC=C1 | C12H10N2
